US04147672
1-Methylene-3,3-dimethyl-cyclohex-5-ene was prepared by the procedure given in Bull. Soc. Chim. France 4170 (1972) starting from isophorol. Its conversion into (1-hydroxy-3,3-dimethyl-cyclohex-5-en-1-yl)-methyl acetate was performed as follows:

reactant | isophorol | CC1=CC(CC(C1)(C)C)O | C9H16O
reactant | (1-hydroxy-3,3-dimethyl-cyclohex-5-en-1-yl)-methyl acetate | C(C)(=O)OCC1(CC(CC=C1)(C)C)O | C11H18O3
product | 1-Methylene-3,3-dimethyl-cyclohex-5-ene | C=C1CC(CC=C1)(C)C | C9H14
